US08859777B2
Step 1: Preparation of Methyl 3-[4-(4-Chlorophenyl)-4-fluoropiperidin-1-yl]propionate.
To a solution of 3-[4-(4-chlorophenyl)-4-fluoropiperidine hydrochloride (280 mg, 1.12 mmol) in methanol (5 mL) was added sodium bicarbonate (500 mg, 5.94 mmol) followed by methyl acrylate (1 mL). The resulting mixture was stirred at room temperature for 14 hours then filtered and concentrated under reduced pressure. The residue was treated with ethyl acetate (10 mL) and the resulting suspension re-filtered and concentrated under reduced pressure. This afforded methyl 3-[4-(4-chlorophenyl)-4-fluoropiperidin-1-yl]propionate as a viscous yellow oil in 94% yield, which was used without further purification.

reactant | 4-(4-chlorophenyl)-4-fluoropiperidine hydrochloride | 1.12 mmol, 280 mg | Cl.ClC1=CC=C(C=C1)C1(CCNCC1)F
reactant | sodium bicarbonate | 5.94 mmol, 500 mg | C([O-])(O)=O.[Na+]
reactant | methyl acrylate | 1 mL | C(C=C)(=O)OC | C4H6O2
solvent | methanol | 5 mL | CO | CH4O
product | Methyl 3-[4-(4-Chlorophenyl)-4-fluoropiperidin-1-yl]propionate | 94% yield | ClC1=CC=C(C=C1)C1(CCN(CC1)CCC(=O)OC)F | C15H19ClFNO2
